US09062070B2
Step C: (9aR)-benzyl 8-allyl-7-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)hexahydro-1H-pyrazino[1,2-a]pyrazine-2(6H)-carboxylate
A solution of (S)-benzyl 4-((S)-2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)ethyl)-3-(hydroxymethyl)piperazine-1-carboxylate (1.4 g, 3.2 mmol) in thionyl chloride (20 mL, 274 mmol) was heated at reflux for 1 h. After removing the volatiles, the residue was dissolved in N,N-dimethylformamide (20 mL) and treated with allylamine (1.31 mL, 17.48 mmol) at 0° C. The resulting solution was treated with sodium iodide (0.088 g, 0.318 mmol) and heated at 90° C. for 1 h. The solution was diluted in ethyl acetate (300 mL) and was washed with saturated sodium bicarbonate three times, dried over sodium sulfate, concentrated and the residue was purified by MPLC on a Biotage system using 40-100% ethyl acetate/hexane to give the title compound. LC/MS: (M+1)+: 462.12.

reactant | (S)-benzyl 4-((S)-2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)ethyl)-3-(hydroxymethyl)piperazine-1-carboxylate | 3.2 mmol, 1.4 g | O[C@H](CN1[C@@H](CN(CC1)C(=O)OCC1=CC=CC=C1)CO)C=1C(=C2COC(C2=CC1)=O)C | C24H28N2O6
reactant | thionyl chloride | 274 mmol, 20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | allylamine | 17.48 mmol, 1.31 mL | C(C=C)N | C3H7N
reactant | sodium iodide | 0.318 mmol, 0.088 g | [I-].[Na+]
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | (9aR)-benzyl 8-allyl-7-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)hexahydro-1H-pyrazino[1,2-a]pyrazine-2(6H)-carboxylate | C(C=C)N1C[C@H]2N(CCN(C2)C(=O)OCC2=CC=CC=C2)CC1C=1C(=C2COC(C2=CC1)=O)C | C27H31N3O4
